US08609644B2
17,17-Bis(ethylendioxy)androstane-7-one was prepared in 82% yield from 3,3:17,17-bis(ethylendioxy)-5-androsten-7-one by the procedure described above for the preparation of 3β-acetoxyandrostane-7,17-dione (Prepn. 41) using EtOAc instead of EtOH. The crude product was purified by flash chromatography (SiO2, n-hexane/EtOAc 6/4). 1H-NMR (300 MHz, acetone-d6, ppm from TMS: δ 3.96-3.75 (m, 8H), 2.54-1.10 (m, 20H), 1.13 (s, 3H), 0.83 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-5-androsten-7-one | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C(C=C3CCCC[C@]3(C)[C@H]1CC4)=O | C23H32O5
reactant | 3β-acetoxyandrostane-7,17-dione | C(C)(=O)O[C@@H]1CC2CC([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C21H30O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 17,17-Bis(ethylendioxy)androstane-7-one | 82% yield | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C(CC3CCCC[C@]3(C)[C@H]1CC4)=O | C23H34O5
